US05591862
According to the method described for Reference Example 34, (E)-3-[4-[5-methyl-2-(2-naphthyl)-4-oxazolylmethoxy]phenyl]-2-propen-1-ol was subjected to oxidation with activated manganese dioxide to give (E)-3-[4-[5-methyl-2-(2-naphthyl)-4-oxazolylmethoxy]phenyl]-2-propen-1-al. Recrystallization from chloroform-ether gave colorless prisms, m.p.179°-180° C.

reactant | (E)-3-[4-[5-methyl-2-(2-naphthyl)-4-oxazolylmethoxy]phenyl]-2-propen-1-ol | CC1=C(N=C(O1)C1=CC2=CC=CC=C2C=C1)COC1=CC=C(C=C1)/C=C/CO | C24H21NO3
catalyst | manganese dioxide | [O-2].[O-2].[Mn+4]
product | (E)-3-[4-[5-methyl-2-(2-naphthyl)-4-oxazolylmethoxy]phenyl]-2-propen-1-al | CC1=C(N=C(O1)C1=CC2=CC=CC=C2C=C1)COC1=CC=C(C=C1)/C=C/C=O | C24H19NO3
